US07244725B2
A. Step 1. 5-Bromo-2-iodobenzamide
To 5-bromo-2-iodobenzoic acid (20 g, 61.2 mmol) in 1:1 mixture of dichloromethane and dimethylformamide (200 mL) was added HATU (25 g, 65.8 mmol), and the solution stirred 2 min. Excess ammonium chloride (20 g) was added, and the heterogeneous mixture was stirred 1 h. Ammonium hydroxide (20 mL) was added causing a white precipitate. The precipitate was filtered and washed with ethyl acetate. The solution was diluted with ethyl acetate, washed with water, 1 N hydrochloric acid, saturated sodium bicarbonate, and saturated sodium chloride, dried (magnesium sulfate), filtered, and concentrated under reduced pressure resulting in the formation of a white precipitate. The solid was filtered to provide the title compound (14.4 g ). ESI MS m/z 327.0 [M+H]+.

reactant | 5-bromo-2-iodobenzoic acid | 61.2 mmol, 20 g | BrC=1C=CC(=C(C(=O)O)C1)I | C7H4BrIO2
reactant | HATU | 65.8 mmol, 25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 20 g | [Cl-].[NH4+]
reactant | Ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Bromo-2-iodobenzamide | 14.4 g | BrC=1C=CC(=C(C(=O)N)C1)I | C7H5BrINO
